US05158970
L-pyroglutamic acid (100 g, 0.775 mol), L-prolinol (78.3 g, 0.775 mol) and triethylamine (322 ml) are dissolved in methylene chloride (2.5 l), and a solution of DMC (196.5 g, 1.163 mol) in methylene chloride (600 ml) is added dropwise over a period of forty minutes under water-cooling. The mixture is stirred for a further 3 hours at room temperature, and the reaction liquid is filtered to remove insolubles. The filtrate is concentrated to dryness under reduced pressure, and the residue is crystallized from dioxane-ether to give L-pyroglutamyl-L-prolinol (38.4 g, 23.3%).

reactant | L-pyroglutamic acid | 0.775 mol, 100 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | L-prolinol | 0.775 mol, 78.3 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | triethylamine | 322 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2.5 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | L-pyroglutamyl-L-prolinol | 38.4 g, 23.3% | N1[C@@H](CCC1=O)C(=O)N1[C@H](CO)CCC1 | C10H16N2O3
